US04221814
A mixture of 5 g of 7-(propionamido)-2-(4-carboxyphenyl)-4H-3,1-benzoxazine-4-one, 50 ml of dimethylformamide, 10 ml of water and 8 ml of triethylamine was heated at 80°-90° C. for a period of 10 hours. After being allowed to cool, the mixture was treated with dilute hydrochloric acid to adjust its pH between 2 and 3. The precipitating crystal was filtered, washed with water, and recrystallized from isopropyl alcohol to produce 4.1 g of 2-(4-carboxybenzamido)-4-propionamidobenzoic acid having a melting point in the range of 284° to 286° C. (decompose).

reactant | 7-(propionamido)-2-(4-carboxyphenyl)-4H-3,1-benzoxazine-4-one | 5 g | C(CC)(=O)NC1=CC2=C(C(OC(=N2)C2=CC=C(C=C2)C(=O)O)=O)C=C1 | C18H14N2O5
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | water | 10 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-carboxybenzamido)-4-propionamidobenzoic acid | 4.1 g | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)NC(CC)=O)C=C1 | C18H16N2O6
